US07910613B2
77: N-[5-(5-Oxo-4,5-dihydro-[1,3,4]oxadiazol-2-yl)-4-phenyl-thiazol-2-yl]-2-phenyl-acetamide
Prepared from 5-(2-amino-4-phenyl-thiazol-5-yl)-3H-[1,3,4]oxadiazol-2-one and phenyl-acetyl chloride.

reactant | 5-(2-amino-4-phenyl-thiazol-5-yl)-3H-[1,3,4]oxadiazol-2-one | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NNC(O1)=O | C11H8N4O2S
reactant | phenyl-acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-[5-(5-Oxo-4,5-dihydro-[1,3,4]oxadiazol-2-yl)-4-phenyl-thiazol-2-yl]-2-phenyl-acetamide | O=C1NN=C(O1)C1=C(N=C(S1)NC(CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C19H14N4O3S
